US06331640B1
Hydrogen bromide gas was bubbled through a suspension of 2-chloro-4-(diazoacetyl)benzoic acid, methyl ester (400 mg, 1.7 mmol) in ether (30 mL) for 10 min. The solvent was evaporated and the residue was triturated with ether/hexane and filtered to give 4-(bromoacetyl)-2-chlorobenzoic acid, methyl ester (385 mg, 79%) as a colorless solid.

reactant | Hydrogen bromide | Br | BrH
reactant | 2-chloro-4-(diazoacetyl)benzoic acid, methyl ester | 1.7 mmol, 400 mg | ClC1=C(C(=O)OC)C=CC(=C1)C(C=[N+]=[N-])=O | C10H7ClN2O3
solvent | ether | 30 mL | CCOCC | C4H10O
product | 4-(bromoacetyl)-2-chlorobenzoic acid, methyl ester | 385 mg, 79% | BrCC(=O)C1=CC(=C(C(=O)OC)C=C1)Cl | C10H8BrClO3
